US07087601B2
A solution of 2-[4-(bromomethyl)-3-chlorophenyl]-1,3-benzoxazole (150 mg, 0.46 mmol), KCN (36 mg, 0.55 mmol), and 18-crown-6 (145 mg, 0.55 mmol) is refluxed in MeCN (5 mL) for 10 minutes. The reaction is poured into H2O (100 mL) and extracted with CH2Cl2 (2×30 mL). The organic extracts are dried (MgSO4), concentrated under reduced pressure, and purified by flash chromatography (EtOAc:hexanes 1:10) to afford the desired 2,3-bis[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]propanenitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.32 (dd, 2H), 8.20 (d, 1H), 8.11 (d, 1H), 7.80–7.83 (m, 2H), 7.71 (d, 1H), 7.61–7.63 (m, 2H), 7.39–7.45 (m, 5), 4.85 (t, 1H), 3.40–3.50 (m, 2H). MS (ESI) 511 (M+H)+.

reactant | 2-[4-(bromomethyl)-3-chlorophenyl]-1,3-benzoxazole | 0.46 mmol, 150 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)Cl | C14H9BrClNO
reactant | KCN | 0.55 mmol, 36 mg | [C-]#N.[K+]
reactant | 18-crown-6 | 0.55 mmol, 145 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | H2O | 100 mL | O | H2O
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 2,3-bis[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]propanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)CC2=C(C=C(C=C2)C=2OC1=C(N2)C=CC=C1)Cl)Cl | C29H17Cl2N3O2
